US04420325
A solution of 153.9 g of o-nitrobenzylchloride and 68.5 g of thiourea in 900 ml of #2B ethanol was stirred at reflux temperature (80°) for 11/4 hours. The solution was cooled to 60° and 1.1 liters of 1-chlorobutane was added. Further cooling to 15° produced a heavy precipitate. The precipitate was filtered, washed with 1-chlorobutane and dried to yield 185.9 g of 2-nitrophenylmethyl carbamimidothioate hydrochloride, m.p. 190°-192°.

reactant | o-nitrobenzylchloride | 153.9 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
reactant | thiourea | 68.5 g | NC(=S)N | CH4N2S
reactant | ethanol | C(C)O | C2H6O
solvent | 1-chlorobutane | 1.1 liters | ClCCCC | C4H9Cl
product | 2-nitrophenylmethyl carbamimidothioate hydrochloride | 185.9 g | Cl.C(N)(=N)SCC1=C(C=CC=C1)[N+](=O)[O-] | InChI=1S/C8H9N3O2S.ClH/c9-8(10)14-5-6-3-1-2-4-7(6)11(12)13;/h1-4H,5H2,(H3,9,10);1H
